US04585788
Reaction of ethyl 4-(2-ethoxycarbonylbenzyloxy)-α,α-dimethylphenylacetate with potassium hydroxide as described in Example 1c provides 4-(2-carboxybenzyloxy)-α,α-dimethylphenylacetic acid.

reactant | ethyl 4-(2-ethoxycarbonylbenzyloxy)-α,α-dimethylphenylacetate | C(C)OC(=O)C1=C(COC2=CC=C(C=C2)C(C(=O)OCC)(C)C)C=CC=C1 | C22H26O5
reactant | potassium hydroxide | [OH-].[K+]
product | 4-(2-carboxybenzyloxy)-α,α-dimethylphenylacetic acid | C(=O)(O)C1=C(COC2=CC=C(C=C2)C(C(=O)O)(C)C)C=CC=C1 | C18H18O5
